US05691349
A mixture of (+) 3-ethynyl-3-hydroxyquinuclidine (180 mg), 4-butoxyiodobenzene (330 mg), bis(triphenylphosphine)-palladium (II) chloride (42 mg),copper (I) iodide (21 mg), triethylamine (2.5 ml) and dimethylformamide (5 ml) was stirred under argon at ambient temperature for 4 hours. The triethylamine and dimethylformamide were removed by evaporation. A solution of 2M sodium hydroxide (10 ml) was added and the mixture extracted with dichloromethane (3×10 ml). The combined organic extracts were washed with water (10 ml), dried (MgSO4) and evaporated to a gum. This gum was further purified by flash column chromatography on silica gel using a mixture of 5% methanol in dichloromethane containing 1% ammonia (density, 0.88 g(cm3) as eluent, followed by crystallisation from ethyl acetate to give (+)-3-[2-(4-butoxyphenyl)ethynyl)-3-hydroxyquinuclidine (120 mg) as a solid, m.p. 115°-116° C.; microanalysis, found C, 75.4; H, 8.4; N, 4.5%; C19H25NO2 0.2H2O requires: C,75.35; H, 8.39, N, 4.63%; NMR: 0.86-0.99(3H,t), 1.2-1.5(3H,m), 1.5-1.71(3H,m), 1.72-1.97(3H,m), 2.6-2.72(4H,m), 2.75-2.85(1H,d), 3.0-3.1(1H,d), 3.9-4.01(2H,t), 5.15(1H,s), 6.85-6.95(2H,d), 7.27-7.37(2H,d); m/z 300(M+H) α=[+26.6]58921 (c=1; methanol).

reactant | (+) 3-ethynyl-3-hydroxyquinuclidine | 180 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | 4-butoxyiodobenzene | 330 mg | C(CCC)OC1=CC=C(C=C1)I | C10H13IO
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)-palladium (II) chloride | 42 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 21 mg | [Cu]I
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (+)-3-[2-(4-butoxyphenyl)ethynyl)-3-hydroxyquinuclidine | 120 mg | C(CCC)OC1=CC=C(C=C1)C#CC1(CN2CCC1CC2)O | C19H25NO2
